US05840917
5-Formyl-2-thiophenecarboxylic acid methyl ester (1.7 g) (synthesized in accordance with the method described in J. Heterocyclic Chem., 28, 17 (1991)) in methylene chloride (10 ml) was slowly added dropwise to diethylaminosulfur trifluoride (DAST) (1.6 g) in methylene chloride (20 ml). The mixture was stirred at room temperature for 2 hours, and then diethylaminosulfur trifluoride (DAST) (0.5 g) was further added. The resulting mixture was stirred at room temperature for 1 hour, and water (10 ml) and saturated aqueous sodium bicarbonate (10 ml) were added. The resulting mixture was allowed to stand overnight. The organic layer was collected, washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 5-difluoromethyl-2-thiophenecarboxylic acid methyl ester (0.81 g). 5-Difluoromethyl-2-thiophenecarboxylic acid methyl ester (2.58 g) synthesized in this manner was dissolved in methanol (50 ml), and 1N sodium hydroxide (30 ml) was added. The mixture was stirred at room temperature for 2 hours and washed with diethyl ether. The aqueous layer was acidified with 1N hydrochloric acid and extracted with diethyl ether. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 5-difluoromethyl-2-thiophenecarboxylic acid (2.13 g) as crystals.

reactant | 5-Difluoromethyl-2-thiophenecarboxylic acid methyl ester | 2.58 g | COC(=O)C=1SC(=CC1)C(F)F | C7H6F2O2S
reactant | sodium hydroxide | 1N, 30 ml | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 5-difluoromethyl-2-thiophenecarboxylic acid | 2.13 g | FC(C1=CC=C(S1)C(=O)O)F | C6H4F2O2S
